US05556864
113(c) (S)-2-(2-{2-[2-(3-Methoxyphenyl)ethyl]phenoxy}ethyl)-1-methylpyrrolidine hydrochloride
0.829 g of (S)-2-(2-{2-[2-(3-methoxyphenyl)ethyl]phenoxy}ethyl)-1-methylpyrrolidine was dissolved in 10 ml of dioxane, and 1.83 ml of a 4N solution of hydrogen chloride in dioxane was added to the solution, which was then concentrated by distillation under reduced pressure. The resulting oil was dissolved in 15 ml of ethyl acetate, and the solution was allowed to stand at room temperature. The crystals which precipitated were collected by filtration and dried in vacuo, to give 0.741 g (yield 81%) of the title compound as colorless crystals, melting at 133°-135° C.

reactant | (S)-2-(2-{2-[2-(3-methoxyphenyl)ethyl]phenoxy}ethyl)-1-methylpyrrolidine | 0.829 g | COC=1C=C(C=CC1)CCC1=C(OCC[C@H]2N(CCC2)C)C=CC=C1 | C22H29NO2
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (S)-2-(2-{2-[2-(3-Methoxyphenyl)ethyl]phenoxy}ethyl)-1-methylpyrrolidine hydrochloride | 0.741 g, yield 81% | Cl.COC=1C=C(C=CC1)CCC1=C(OCC[C@H]2N(CCC2)C)C=CC=C1 | InChI=1S/C22H29NO2.ClH/c1-23-15-6-9-20(23)14-16-25-22-11-4-3-8-19(22)13-12-18-7-5-10-21(17-18)24-2;/h3-5,7-8,10-11,17,20H,6,9,12-16H2,1-2H3;1H/t20-;/m0./s1
